US04673737
7β-(2-thienylacetylamino)-3-trifluoromethylsulfonyloxy-1-carba-3-cephem-4-carboxylic acid
p-Nitrobenzyl 7β-amino-3-trifluoromethylsulfonyloxy-1-carba-3-cephem-4-carboxylate is acylated in methylene chloride with 2-thienylacetyl chloride in the presence of propylene oxide and then is deesterified to provide the title compound.

reactant | p-Nitrobenzyl 7β-amino-3-trifluoromethylsulfonyloxy-1-carba-3-cephem-4-carboxylate | N[C@H]1[C@@H]2N(C(=C(CC2)OS(=O)(=O)C(F)(F)F)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C16H14F3N3O8S
reactant | 2-thienylacetyl chloride | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
reactant | propylene oxide | C1C(C)O1 | C3H6O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 7β-(2-thienylacetylamino)-3-trifluoromethylsulfonyloxy-1-carba-3-cephem-4-carboxylic acid | S1C(=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CC2)OS(=O)(=O)C(F)(F)F)C(=O)O)C1=O | C15H13F3N2O7S2
